US04954507
3-BENZYL-3,8-DIAZABICYCLO(3.2.1)OCTANE
A solution of 3-benzyl-2,4-dioxo-8-methyl-3,8-diazabicyclo (3.2.1)octane (2.05 g, 8.91 mmoles) in dry ether (100 mL) was treated gradually with lithium aluminum hydride (1.52 g, 4 mmoles), heated under reflux for one hour, and hydrolyzed successively with 50 mL of water-saturated ether and then 10 mL of water. This mixture was filtered on a celite pad. The filtrate was dried over magnesium sulfate and then evaporated to give the crude titled product which was used without any purification for further uses.

reactant | 3-benzyl-2,4-dioxo-8-methyl-3,8-diazabicyclo (3.2.1)octane | 8.91 mmoles, 2.05 g | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2C)=O | C14H16N2O2
reactant | lithium aluminum hydride | 4 mmoles, 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 50 mL | O | H2O
reactant | water | 10 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-BENZYL-3,8-DIAZABICYCLO(3.2.1)OCTANE | C(C1=CC=CC=C1)N1CC2CCC(C1)N2 | C13H18N2
